US06184225B2
A mixture of 6-methoxy-4-phenoxy-7-(2-(2-methoxyethylamino)ethoxy)quinazoline (760 mg, 2 mmol) in 2M hydrochloric acid (5 ml) was heated at 90° C. for 1.5 hours. The mixture was allowed to cool and adjusted to pH7 with solid sodium hydrogen carbonate. The water was removed by evaporation and the residue extracted with methylene chloride/methanol/aqueous ammonia (100/8/1). The volatiles were removed from the extract by evaporation, the residue dissolved in methylene chloride, passed through phase separating paper and the solvent removed by evaporation to give 6-methoxy-7-(2-(2-methoxyethylamino)ethoxy)-3,4-dihydroquinazolin-4-one (600 mg, 99%) as a white solid.

reactant | 6-methoxy-4-phenoxy-7-(2-(2-methoxyethylamino)ethoxy)quinazoline | 2 mmol, 760 mg | COC=1C=C2C(=NC=NC2=CC1OCCNCCOC)OC1=CC=CC=C1 | C20H23N3O4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 2M, 5 ml | Cl | ClH
product | 6-methoxy-7-(2-(2-methoxyethylamino)ethoxy)-3,4-dihydroquinazolin-4-one | 600 mg, 99% | COC=1C=C2C(NC=NC2=CC1OCCNCCOC)=O | C14H19N3O4
